US09403797B2
2 M Methylamine in MeOH (11.6 mL, 23.2 mmol) was added to 2-chloro-4-iodo-5-(trifluoromethyl)pyridine (357 mg, 1.16 mmol) and the mixture was heated in a microwave reactor at 130° C. for 1 hour. The mixture was concentrated in vacuo. Preparative thin-layer chromatography, eluting with 20% EtOAc:hexane, gave 2-chloro-N-methyl-5-(trifluoromethyl)pyridin-4-amine (77 mg, 0.363 mmol, 31% yield).

reactant | Methylamine | 2 M | CN | CH5N
reactant | MeOH | 23.2 mmol, 11.6 mL | CO | CH4O
reactant | 2-chloro-4-iodo-5-(trifluoromethyl)pyridine | 1.16 mmol, 357 mg | ClC1=NC=C(C(=C1)I)C(F)(F)F | C6H2ClF3IN
solvent | hexane | CCCCCC | C6H14
product | 2-chloro-N-methyl-5-(trifluoromethyl)pyridin-4-amine | 0.363 mmol, 77 mg, 31% yield | ClC1=NC=C(C(=C1)NC)C(F)(F)F | C7H6ClF3N2
